* C:\Users\jack\OneDrive\Documents\GitHub\Breadboard_CPU\NegativePulse.asc
R1 N001 Vo 82
R2 N001 N002 82
C1 N002 Vo 0.1µ
V1 N001 0 {Vvar}
Q1 N002 N004 0 0 2N2222
V2 N003 0 PULSE(0 5 10u 1n 1n 100u 200u 10)
R3 N004 N003 1k
C2 N004 0 1p
.model NPN NPN
.model PNP PNP
.lib C:\Users\jack\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 800u 0 5n
.step param Vvar list 5 3.3
.backanno
.end
